US07683168B2
Tetrabutylammonium fluoride hydrate (1.83 g) was added to the solution of N-Ethyl-4-{(S)-[(2S,5R)-4-(3-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-phenyl-methyl}-N-(2-triethylsilanyloxy-ethyl)-benzamide (3.6 g) in THF (30 mL). The reaction was stirred at room temperature for 90 minutes. The reaction mixture was concentrated. The residual was dissolved in EtOAc (60 mL). The EtOAc solution was washed by H2O (30 mL×3) and brine (30 mL×1), dried by Na2SO4 and concentrated to give crude product (3.3 g), which was purified to give pure N-Ethyl-4-{(S)-[(2S,5R)-4-(3-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-phenyl-methyl}-N-(2-hydroxy-ethyl)-benzamide (2.76 g; 94%). 1H NMR (300 MHz, CDCl3) □ 7.49 (m, 2H), 7.37-7.19 (m, 8H), 7.04 (m, 2H), 6.90 (ddd, 1H, J=8.5, 8.5, 2.0 Hz), 5.16 (s, 1H), 3.87 (m, 3H), 3.69 (m, 2H), 3.36 (m, 2H), 3.18 (d, 1H, J=13.5 Hz), 2.67 (m, 2H), 2.56 (m, 2H), 1.97 (m, 2H), 1.67 (s, 1H), 1.16 (m, 3H), 1.12 (d, 3H, J=6.0 Hz), 1.06 (d, 3H, J=6.5 Hz).

reactant | Tetrabutylammonium fluoride hydrate | 1.83 g | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-Ethyl-4-{(S)-[(2S,5R)-4-(3-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-phenyl-methyl}-N-(2-triethylsilanyloxy-ethyl)-benzamide | 3.6 g | C(C)N(C(C1=CC=C(C=C1)[C@H](C1=CC=CC=C1)N1[C@H](CN([C@@H](C1)C)CC1=CC(=CC=C1)F)C)=O)CCO[Si](CC)(CC)CC | C37H52FN3O2Si
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-Ethyl-4-{(S)-[(2S,5R)-4-(3-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-phenyl-methyl}-N-(2-hydroxy-ethyl)-benzamide | 2.76 g, 94% | C(C)N(C(C1=CC=C(C=C1)[C@H](C1=CC=CC=C1)N1[C@H](CN([C@@H](C1)C)CC1=CC(=CC=C1)F)C)=O)CCO | C31H38FN3O2
